US07338960B2
Methyl {4-[(1-{6-[4-(trifluoromethyl)phenyl]-2-pyridinyl}pentyl)oxy]phenyl}acetate
To a solution of 1-{6-[4-(trifluoromethyl)phenyl]-2-pyridinyl}-1-pentanol (349 mg, 1.13 mmol) in dry THF (22.5 mL) at 0° C. (ice/water bath) under nitrogen was added methyl-4-hydroxyphenylacetate (187 mg, 1.13 mmol) followed after 1 minute by ADDM (578 mg, 2.25 mmol) in one portion. The resulting orange cloudy mixture was stirred for 3 minutes and then treated with nBu3P (562 μL, 2.26 mmol) drop-wise over 1 minute. The resulting pale yellow/orange mixture was then allowed to warm slowly to rt over 64 hours. The cloudy mixture was then reduced under vacuum and the residue partitioned between EtOAc (50 mL) and water (50 mL) and the layers separated. The aqueous was then re-extracted with EtOAc (50 mL) and the combined organic layer washed with brine (100 mL) dried (MgSO4), filtered and reduced to give an oil which was purified by SPE (silica) eluting with cyclohexane:EtOAc (gradient 100:1 to 5:1) to give the title compound (330 mg).

reactant | 1-{6-[4-(trifluoromethyl)phenyl]-2-pyridinyl}-1-pentanol | 1.13 mmol, 349 mg | FC(C1=CC=C(C=C1)C1=CC=CC(=N1)C(CCCC)O)(F)F | C17H18F3NO
reactant | methyl-4-hydroxyphenylacetate | 1.13 mmol, 187 mg | COC(CC1=CC=C(C=C1)O)=O | C9H10O3
reactant | nBu3P | 2.26 mmol, 562 μL | P(CCCC)(CCCC)CCCC | C12H27P
solvent | THF | 22.5 mL | C1CCOC1 | C4H8O
product | Methyl {4-[(1-{6-[4-(trifluoromethyl)phenyl]-2-pyridinyl}pentyl)oxy]phenyl}acetate | 330 mg | FC(C1=CC=C(C=C1)C1=CC=CC(=N1)C(CCCC)OC1=CC=C(C=C1)CC(=O)OC)(F)F | C26H26F3NO3
